US09447450B2
tert-Butyl (6-amino-5-bromonaphthalen-2-yl)carbamate
tert-Butyl (6-aminonaphthalen-2-yl)carbamate (1.31 g, 5.07 mmol) was stirred with ammonium acetate (39 mg, 0.5 mmol) in MeCN in an ice bath. N-Bromosuccinimide (948 mg, 5.32 mmol) was dissolved in additional MeCN and added slowly over 1 h. Stirring was continued for 1 h at 0° C., and then Celite was added. Solvents were removed under reduced pressure, and the product (1.33 g, 78%) isolated by silica gel chromatography eluting with a gradient of 0→50% EtOAc in heptanes. 1H NMR (CD2Cl2) d 7.94 (d, 1H); 7.89 (br d, 1H); 7.58 (d, 1H); 7.38 (dd, 1H); 7.02 (d, 1H); 6.66 (br s, 1H); 4.35 (br s, 2H); 1.54 (s, 9H).

reactant | tert-Butyl (6-aminonaphthalen-2-yl)carbamate | 5.07 mmol, 1.31 g | NC=1C=C2C=CC(=CC2=CC1)NC(OC(C)(C)C)=O | C15H18N2O2
reactant | ammonium acetate | 0.5 mmol, 39 mg | C(C)(=O)[O-].[NH4+]
reactant | N-Bromosuccinimide | 5.32 mmol, 948 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | MeCN | CC#N | C2H3N
product | tert-Butyl (6-amino-5-bromonaphthalen-2-yl)carbamate | 1.33 g, 78% | NC=1C(=C2C=CC(=CC2=CC1)NC(OC(C)(C)C)=O)Br | C15H17BrN2O2
